US08530477B2
3-[4-(4-Methanesulfonylpiperazin-1-yl)phenyl]-8-azabicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (0.758 g, 1.69 mmol) is solubilized in 158 ml of dichloromethane. 4N HCl in dioxane (4.2 ml, 16.8 mmol) is then added. After stirring for 16 h at ambient temperature, the reaction medium is concentrated, taken up with water, and washed with ethyl acetate. The pH of the aqueous phase is then adjusted to 10 with a 5N aqueous solution of sodium hydroxide. After extraction with dichloromethane, and washing with water and then with a saturated aqueous sodium chloride solution, the organic phase is dried over MgSO4 and then concentrated to dryness. 0.51 g of expected 3-[4-(4-methanesulfonylpiperazin-1-yl)phenyl]-8-aza-bicyclo[3.2.1]octane is obtained, which is subsequently used as it is.

reactant | 3-[4-(4-Methanesulfonylpiperazin-1-yl)phenyl]-8-azabicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 1.69 mmol, 0.758 g | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)C2=CC=C(C=C2)N2CCN(CC2)S(=O)(=O)C | C23H35N3O4S
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 16.8 mmol, 4.2 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 158 ml | ClCCl | CH2Cl2
product | 3-[4-(4-methanesulfonylpiperazin-1-yl)phenyl]-8-aza-bicyclo[3.2.1]octane | 0.51 g | CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C1CC2CCC(C1)N2 | C18H27N3O2S
